* Copyright 2022 GlobalFoundries PDK Authors
*
* Licensed under the Apache License, Version 2.0 (the "License");
* you may not use this file except in compliance with the License.
* You may obtain a copy of the License at
*
*     https://www.apache.org/licenses/LICENSE-2.0
*
* Unless required by applicable law or agreed to in writing, software
* distributed under the License is distributed on an "AS IS" BASIS,
* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
* See the License for the specific language governing permissions and
* limitations under the License.

*******************************************************************************
* Document No.      : SM-BB-000149
* Revision          : 1
* Process Name      : 0.18um MCU 10V high voltage process
* Process ID        : TH18300G1A
*					  TH18300G4A
* Wafer ID          : TNL4435202 (10V LDNMOS & LDPMOS)
************************************************************************************************
* Models included in this release :
*
*      ModelName          Description
*      ---------          -----------
*      nmos_10p0_asym     BSIM4 based HV subcircuit model for 10V LDNMOS (*)
*      pmos_10p0_asym     BSIM4 based HV subcircuit model for 10V LDPMOS (*)
************************************************************************************************

.lib typical
.param nmos_10p0_asym_dtox=0
.param nmos_10p0_asym_dxl=0
.param nmos_10p0_asym_dxw=0
.param nmos_10p0_asym_dvth0=0
.param nmos_10p0_asym_drdsw=1
.param nmos_10p0_asym_drdrift=1
.param nmos_10p0_asym_dvsat=1
.param nmos_10p0_asym_du0=1
.param nmos_10p0_asym_dcgs=1
.param nmos_10p0_asym_dcgd=1
.param nmos_10p0_asym_dcjs=1
.param nmos_10p0_asym_dcjd=1
.param pmos_10p0_asym_dtox=0
.param pmos_10p0_asym_dxl=0
.param pmos_10p0_asym_dxw=0
.param pmos_10p0_asym_dvth0=0
.param pmos_10p0_asym_drdsw=1
.param pmos_10p0_asym_drdrift=1
.param pmos_10p0_asym_dvsat=1
.param pmos_10p0_asym_du0=1
.param pmos_10p0_asym_dcgs=1
.param pmos_10p0_asym_dcgd=1
.param pmos_10p0_asym_dcjs=1
.param pmos_10p0_asym_dcjd=1
.lib 'smbb000149.ngspice' nmos_10p0_asym_t
.lib 'smbb000149.ngspice' pmos_10p0_asym_t
.lib 'smbb000149.ngspice' noise_corner
.endl typical

.lib ss
.param nmos_10p0_asym_dtox=8e-10
.param nmos_10p0_asym_dxl=6e-008
.param nmos_10p0_asym_dxw=-3.46e-8
.param nmos_10p0_asym_dvth0=0.112
.param nmos_10p0_asym_drdsw=1.2
.param nmos_10p0_asym_drdrift=1.271
.param nmos_10p0_asym_dvsat=0.926
.param nmos_10p0_asym_du0=0.95
.param nmos_10p0_asym_dcgs=1.1
.param nmos_10p0_asym_dcgd=1.2
.param nmos_10p0_asym_dcjs=1.1
.param nmos_10p0_asym_dcjd=1.2
.param pmos_10p0_asym_dtox=8e-10
.param pmos_10p0_asym_dxl=9.914e-008
.param pmos_10p0_asym_dxw=-1e-7
.param pmos_10p0_asym_dvth0=-0.0936
.param pmos_10p0_asym_drdsw=1.11
.param pmos_10p0_asym_drdrift=1.144
.param pmos_10p0_asym_dvsat=0.91
.param pmos_10p0_asym_du0=0.964
.param pmos_10p0_asym_dcgs=1.1
.param pmos_10p0_asym_dcgd=1.2
.param pmos_10p0_asym_dcjs=1.1
.param pmos_10p0_asym_dcjd=1.2
.lib 'smbb000149.ngspice' nmos_10p0_asym_t
.lib 'smbb000149.ngspice' pmos_10p0_asym_t
.lib 'smbb000149.ngspice' noise_corner
.endl ss

.lib ff
.param nmos_10p0_asym_dtox=-8e-10
.param nmos_10p0_asym_dxl=-6e-008
.param nmos_10p0_asym_dxw=3.46e-8
.param nmos_10p0_asym_dvth0=-0.10388
.param nmos_10p0_asym_drdsw=0.868
.param nmos_10p0_asym_drdrift=0.8245
.param nmos_10p0_asym_dvsat=1.033
.param nmos_10p0_asym_du0=1.04
.param nmos_10p0_asym_dcgs=0.9
.param nmos_10p0_asym_dcgd=0.8
.param nmos_10p0_asym_dcjs=0.9
.param nmos_10p0_asym_dcjd=0.8
.param pmos_10p0_asym_dtox=-8e-10
.param pmos_10p0_asym_dxl=-6.804e-008
.param pmos_10p0_asym_dxw=8.46e-8
.param pmos_10p0_asym_dvth0=0.099
.param pmos_10p0_asym_drdsw=0.91
.param pmos_10p0_asym_drdrift=0.89
.param pmos_10p0_asym_dvsat=1.06
.param pmos_10p0_asym_du0=1.03
.param pmos_10p0_asym_dcgs=0.9
.param pmos_10p0_asym_dcgd=0.8
.param pmos_10p0_asym_dcjs=0.9
.param pmos_10p0_asym_dcjd=0.8
.lib 'smbb000149.ngspice' nmos_10p0_asym_t
.lib 'smbb000149.ngspice' pmos_10p0_asym_t
.lib 'smbb000149.ngspice' noise_corner
.endl ff

.lib sf
.param nmos_10p0_asym_dtox=0
.param nmos_10p0_asym_dxl=5.024e-008
.param nmos_10p0_asym_dxw=0
.param nmos_10p0_asym_dvth0=0.068
.param nmos_10p0_asym_drdsw=1.2
.param nmos_10p0_asym_drdrift=1.156
.param nmos_10p0_asym_dvsat=0.928
.param nmos_10p0_asym_du0=0.97
.param nmos_10p0_asym_dcgs=1.07
.param nmos_10p0_asym_dcgd=1.14
.param nmos_10p0_asym_dcjs=1.07
.param nmos_10p0_asym_dcjd=1.14
.param pmos_10p0_asym_dtox=0
.param pmos_10p0_asym_dxl=-7.004e-008
.param pmos_10p0_asym_dxw=0
.param pmos_10p0_asym_dvth0=0.057672
.param pmos_10p0_asym_drdsw=0.91
.param pmos_10p0_asym_drdrift=0.92
.param pmos_10p0_asym_dvsat=1.012
.param pmos_10p0_asym_du0=1.03
.param pmos_10p0_asym_dcgs=0.93
.param pmos_10p0_asym_dcgd=0.86
.param pmos_10p0_asym_dcjs=0.93
.param pmos_10p0_asym_dcjd=0.86
.lib 'smbb000149.ngspice' nmos_10p0_asym_t
.lib 'smbb000149.ngspice' pmos_10p0_asym_t
.lib 'smbb000149.ngspice' noise_corner
.endl sf

.lib fs
.param nmos_10p0_asym_dtox=0
.param nmos_10p0_asym_dxl=-5.02e-008
.param nmos_10p0_asym_dxw=0
.param nmos_10p0_asym_dvth0=-0.058169
.param nmos_10p0_asym_drdsw=0.868
.param nmos_10p0_asym_drdrift=0.89748
.param nmos_10p0_asym_dvsat=1.045
.param nmos_10p0_asym_du0=1.034
.param nmos_10p0_asym_dcgs=0.93
.param nmos_10p0_asym_dcgd=0.86
.param nmos_10p0_asym_dcjs=0.93
.param nmos_10p0_asym_dcjd=0.86
.param pmos_10p0_asym_dtox=0
.param pmos_10p0_asym_dxl=9.414e-008
.param pmos_10p0_asym_dxw=0
.param pmos_10p0_asym_dvth0=-0.056
.param pmos_10p0_asym_drdsw=1.11
.param pmos_10p0_asym_drdrift=1.06
.param pmos_10p0_asym_dvsat=0.989
.param pmos_10p0_asym_du0=0.97
.param pmos_10p0_asym_dcgs=1.07
.param pmos_10p0_asym_dcgd=1.14
.param pmos_10p0_asym_dcjs=1.07
.param pmos_10p0_asym_dcjd=1.14
.lib 'smbb000149.ngspice' nmos_10p0_asym_t
.lib 'smbb000149.ngspice' pmos_10p0_asym_t
.lib 'smbb000149.ngspice' noise_corner
.endl fs

.lib statistical
.param mc_vsat2_10v=agauss(0,1,3)
.param mc_rd_10v_2=agauss(0,1,3)
.param mc_u0_10v_2=agauss(0,1,3)
.param mc_cgol_10v_2=agauss(0,1,3)
.param mc_vsatn2_10v=agauss(0,1,3)
.param mc_rdn_10v_2=agauss(0,1,3)
.param mc_u0n_10v_2=agauss(0,1,3)
.param mc_cgoln_10v_2=agauss(0,1,3)
.param mc_vsatp2_10v=agauss(0,1,3)
.param mc_u0p2_10v=agauss(0,1,3)
.param mc_rdp_10v_2=agauss(0,1,3)
.param mc_cgolp_10v_2=agauss(0,1,3)
.param mc_vsat_10v=mc_vsat2_10v
.param mc_rd_10v=mc_rd_10v_2
.param mc_u0_10v=mc_u0_10v_2
.param mc_cgol_10v=mc_cgol_10v_2
.param mc_vsatn_10v=mc_vsatn2_10v
.param mc_rdn_10v=mc_rdn_10v_2
.param mc_u0n_10v=mc_u0n_10v_2
.param mc_cgoln_10v=mc_cgoln_10v_2
.param mc_vsatp_10v=mc_vsatp2_10v
.param mc_u0p_10v=mc_u0p2_10v
.param mc_rdp_10v=mc_rdp_10v_2
.param mc_cgolp_10v=mc_cgolp_10v_2
.param nmos_10p0_asym_sig_vth='0.01675*(0.7*mc_sig_vth+0.7*mc_sig_vthn)*sw_stat_global*mc_skew'
.param nmos_10p0_asym_dtox='7.2e-11*(0.77*mc_toxe+0.63*mc_toxen)*sw_stat_global*mc_skew'
.param nmos_10p0_asym_dxl='5.3e-9*(0.71*mc_xl+0.69*mc_xln)*sw_stat_global*mc_skew'
.param nmos_10p0_asym_dxw='3.25e-8*(0.77*mc_xw+0.63*mc_xwn)*sw_stat_global*mc_skew'
.param nmos_10p0_asym_dvth0='nmos_10p0_asym_sig_vth'
.param nmos_10p0_asym_drdsw='(1+0.093*(0.77*mc_rd_10v+0.63*mc_rdn_10v)*sw_stat_global*mc_skew)'
.param nmos_10p0_asym_drdrift='(1+0.037*(0.77*mc_rd_10v+0.63*mc_rdn_10v)*sw_stat_global*mc_skew)'
.param nmos_10p0_asym_dvsat='(1+0.028*(0.77*mc_vsat_10v+0.63*mc_vsatn_10v)*sw_stat_global*mc_skew)'
.param nmos_10p0_asym_du0='(1+0.0157*(0.7*mc_u0_10v+0.7*mc_u0n_10v)*sw_stat_global*mc_skew)'
.param nmos_10p0_asym_dcgs='(1+(12e-3*mc_cgol_10v+12e-3*mc_cgoln_10v)*sw_stat_global*mc_skew)'
.param nmos_10p0_asym_dcgd='(1+(24e-3*mc_cgol_10v+24e-3*mc_cgoln_10v)*sw_stat_global*mc_skew)'
.param nmos_10p0_asym_dcjs='(1+(12e-3*mc_cgol_10v+12e-3*mc_cgoln_10v)*sw_stat_global*mc_skew)'
.param nmos_10p0_asym_dcjd='(1+(24e-3*mc_cgol_10v+24e-3*mc_cgoln_10v)*sw_stat_global*mc_skew)'
.param pmos_10p0_asym_sig_dvth1='0.01692*(-0.7*mc_sig_vth+0.7*mc_sig_vthp)*sw_stat_global*mc_skew'
.param pmos_10p0_asym_dtox='7.143e-11*(0.77*mc_toxe+0.63*mc_toxep)*sw_stat_global*mc_skew'
.param pmos_10p0_asym_dxl='1.7e-8*(0.71*mc_xl+0.69*mc_xlp)*sw_stat_global*mc_skew'
.param pmos_10p0_asym_dxw='7.4e-8*(0.77*mc_xw+0.63*mc_xwp)*sw_stat_global*mc_skew'
.param pmos_10p0_asym_dvth0='pmos_10p0_asym_sig_dvth1'
.param pmos_10p0_asym_drdsw='(1+0.085*(0.77*mc_rd_10v+0.63*mc_rdp_10v)*sw_stat_global*mc_skew)'
.param pmos_10p0_asym_drdrift='(1+0.032*(0.77*mc_rd_10v+0.63*mc_rdp_10v)*sw_stat_global*mc_skew)'
.param pmos_10p0_asym_dvsat='(1+0.032*(0.77*mc_vsat_10v+0.63*mc_vsatp_10v)*sw_stat_global*mc_skew)'
.param pmos_10p0_asym_du0='(1+0.0097*(0.7*mc_u0_10v+0.7*mc_u0p_10v)*sw_stat_global*mc_skew)'
.param pmos_10p0_asym_dcgs='(1+(12e-3*mc_cgol_10v+12e-3*mc_cgolp_10v)*sw_stat_global*mc_skew)'
.param pmos_10p0_asym_dcgd='(1+(24e-3*mc_cgol_10v+24e-3*mc_cgolp_10v)*sw_stat_global*mc_skew)'
.param pmos_10p0_asym_dcjs='(1+(12e-3*mc_cgol_10v+12e-3*mc_cgolp_10v)*sw_stat_global*mc_skew)'
.param pmos_10p0_asym_dcjd='(1+(24e-3*mc_cgol_10v+24e-3*mc_cgolp_10v)*sw_stat_global*mc_skew)'
.lib 'smbb000149.ngspice' nmos_10p0_asym_t
.lib 'smbb000149.ngspice' pmos_10p0_asym_t
.lib 'smbb000149.ngspice' noise_corner
.endl statistical

.lib noise_corner
.param nmos_10p0_asym_noia='(fnoicor==0)*1.1021e42+(fnoicor==1)*2.5852e42'
.param nmos_10p0_asym_noib='(fnoicor==0)*2.8476e24+(fnoicor==1)*6.5096e+024'
.param nmos_10p0_asym_noic='(fnoicor==0)*8.75+(fnoicor==1)*8.75'
.param pmos_10p0_asym_noia='(fnoicor==0)*2.9073e+041+(fnoicor==1)*1.7073e+042'
.param pmos_10p0_asym_noib='(fnoicor==0)*8.0736e+025+(fnoicor==1)*2.4523e+026'
.param pmos_10p0_asym_noic='(fnoicor==0)*12780+(fnoicor==1)*12780'
.endl noise_corner

.lib nmos_10p0_asym_t
.subckt nmos_10p0_asym d g s b w=25e-6 l=0.6e-6 ad='w*1.48e-6' pd='2*(1.48e-6+w)' as='w*0.48e-6' ps='(w+0.48e-6)*2' nrd=0 nrs=0 nf=1 dtemp=0 sa=0 sb=0 sd=0 par=1
.param rdrift1=1.5433e3
.param wa=-1.6705e-8
.param rd=0.17322
.param ra=4.631e-3
.param rb=1.1181
.param lb=-1.0648e-6
.param wb=-2.8512e-7
.param trx1=2.8643e-3
.param trx2=1.0098e-5
.param trth1=5.5e-4
.param trth2=0
.param cgdl_d2=5.0343e-10
.param toxep=1.376e-8
.param lcgd_d2=6.4774e-10
.param cgdv_d=1.0253
.param cgd_val=0.20473
.param cgsl_s=1.2929e-10
.param lcgs=2.9695e-8
.param cgs_slope=4.0853
.param cgs_vth=0.10612
.param cgs_factor=0.9
.param vthd=4.18986e-2
.param cgd_vthd=0.31232
.param cgb_slope=1.0158
.param cgb_vth=0.82325
.param cgb_amp=1.3591e-9
.param cgb_min=7.4448e-10
.param cgb_power=2.5552
.param lcgd_d=1.4497e-7
.param polar_d=-1.0276e-3
.param polard_min=7.05
.param polar_s=-0.35192
.param polars_min=4.2
.param cgs_factor2=1
.param cgdv_d2=-2.1473
.param cgdl_d=1.3222e-11
.param cgs_vth1=0.20635
.param cgds_fixed='3.9*8.854e-12/toxep'
rdrift d d2 '(rdrift1*nmos_10p0_asym_drdrift)*1.2e-6/(w/nf-wa)' tc1=trx1 tc2=trx2 m=nf
rd2 d2 d1 'max(1e-2,(rd*nmos_10p0_asym_drdsw*(1+trth1*(temper+dtemp-25)+trth2*(temper+dtemp-25)*(temper+dtemp-25)))/(w/nf-wb)*(tanh(ra*(v(d,s)-rb*(l-lb)/(0.6e-6-lb)))))' m=nf
m0 d1 g s b nmos_10p0_asym_core w=w l=l as=as ad=ad ps=ps pd=pd nf=nf nrd=nrd nrs=nrs sa=sa sb=sb sd=sd
c1_gd g d c='nmos_10p0_asym_dcgd*(cgds_fixed*w*lcgd_d+exp(polar_d*min(max(v(d,s)-vthd,0),polard_min))*cgdl_d*w*(1+tanh(cgdv_d/(1+cgd_val*max(v(d,g),0))*(v(g,d1)+cgd_vthd*(1+cgdv_d2*v(d,d1))-nmos_10p0_asym_dvth0))))'
c1_gd2 g d1 c='nmos_10p0_asym_dcgd*(cgds_fixed*w*lcgd_d2+cgdl_d2*w*(1+tanh(cgdv_d/(1+cgd_val*max(v(d,g),0))*(v(g,d1)+cgd_vthd*(1+cgdv_d2*v(d,d1))-nmos_10p0_asym_dvth0))))'
c2_gs g s c='nmos_10p0_asym_dcgs*(cgds_fixed*w*lcgs+cgsl_s*w*(1-tanh(cgs_slope*(v(s,g)+cgs_vth)))*(1+cgs_factor/(1+cgs_factor2*exp(-v(g,d1)-cgs_vth1))*(1-exp(polar_s*min(max(v(d1,s)-vthd,0),polars_min)))))'
c3_gb g b '(cgb_min+cgb_amp/(1+(1/pow(max(1e-3,cgb_slope*(v(b,g)-cgb_vth+nmos_10p0_asym_dvth0)),cgb_power))))*w'
.model nmos_10p0_asym_core.1 nmos level=54 version=4.6 binunit=1 paramchk=1 mobmod=0 capmod=2 rdsmod=0 igcmod=0 igbmod=0 rbodymod=0 trnqsmod=0 acnqsmod=0 fnoimod=1 tnoimod=0 diomod=2 tempmod=0 permod=1 geomod=0 lmin=6e-7 lmax=20.01e-6 wmin=4e-6 wmax=50.01e-6 epsrox=3.9 toxe='1.398e-8+nmos_10p0_asym_dtox' xj=1.5e-7 ndep=1.7e17 ngate=2.9861e21 nsd=1e20 rsh=7 phin=0 wint=0 wl=0 wln=1 ww=0 wwn=1 wwl=0 lint=0 ll=0 lln=1 lw=0 lwn=1 lwl=0 dwg=-2.9807e-8 dwb=-3.3647e-8 xl='0+nmos_10p0_asym_dxl' xw='0+nmos_10p0_asym_dxw' vth0='0.653+nmos_10p0_asym_dvth0' lvth0=0 wvth0=0 pvth0=0.19879 vfb=-0.55 k1=0.9621 lk1=0 k2=-7.2357e-3 lk2=0 k3=13.237 wk3=0 k3b=0.25485 w0=1e-6 lpe0=1.0439e-6 lpeb=6.2517e-7 dvtp0=0 dvtp1=0 dvt0=0.09762 dvt1=0.021131 dvt2=-0.046683 dvt0w=3.4488 dvt1w=9.5865e4 dvt2w=0.034426 u0='0.0486*nmos_10p0_asym_du0' lu0='5.2003e-3*nmos_10p0_asym_du0' wu0='-0.020672*nmos_10p0_asym_du0' pu0='3.9064e-3*nmos_10p0_asym_du0' ua=-1.05e-10 lua=4.2194e-10 pua=0 ub=3.0678e-18 lub=-1.9302e-18 pub=-6.8e-19 uc=1.0312e-10 luc=-4.7702e-11 puc=-6.8588e-11 vsat='7.9784e4*nmos_10p0_asym_dvsat' lvsat='9844*nmos_10p0_asym_dvsat' wvsat=0 pvsat=-3.168e3 a0=1.0212 la0=-0.55504 ags=0.13804 lags=0 wags=-0.012 b0=6.48e-6 b1=5.9519e-5 keta=-0.01362 lketa=-3.3807e-3 a1=-0.065307 a2=0.94 rdsw='200*nmos_10p0_asym_drdsw' prdsw=0 rdswmin=500 prwb=0.81 pprwb=0 prwg=0.037838 pprwg=0 wr=1 voff=-0.092552 voffl=-1.4059e-8 minv=0 nfactor=0.90694 lnfactor=6.48e-7 eta0=0.039833 etab=-1.2928 dsub=0.56 cit=0 cdsc=1.1424e-5 cdscb=2.4894e-6 cdscd=0 pclm=0.02794 pdiblc1=0.46226 pdiblc2=1.092e-4 pdiblcb=-5e-3 drout=0.45 pscbe1=4.9654e8 pscbe2=1.6381e-7 pvag=0.9 delta=0.01 alpha0=-2.5481e-7 alpha1=0.59769 beta0=37.485 lbeta0=-11.164 wbeta0=2.034 pbeta0=-0.645 agidl=5.7877e-16 bgidl=1.171e9 cgidl=0.228 egidl=0.0968 noia='nmos_10p0_asym_noia' noib='nmos_10p0_asym_noib' noic='nmos_10p0_asym_noic' em=4.1e7 ef=1.0914 xpart=1 cgso=0 cgdo=0 cgbo=1e-13 ckappas=0.6 ckappad=0.6 dlc=1.723e-7 noff=1.9257 lnoff=1 voffcv=-0.038 acde=0.54775 moin=16.92 cgsl=0 cgdl=0 xjbvs=1 xjbvd=1 bvs=11 bvd=14.5 jss=6.88e-7 jsd=1.6119e-6 jsws=4.88e-13 jswd=4.824e-12 jswgs=4.88e-13 jswgd=4.824e-12 jtsd=1.4513e-4 xtsd=0.63818 vtsd=2.16 cjs='9.5e-4*nmos_10p0_asym_dcjs' cjd='1.4914e-4*nmos_10p0_asym_dcjd' mjs=0.296 mjd=0.30525 mjsws=0.01 mjswd=0.21757 cjsws='1.33e-10*nmos_10p0_asym_dcjs' cjswd='5.8719e-10*nmos_10p0_asym_dcjd' cjswgs='1.33e-10*nmos_10p0_asym_dcjs' cjswgd='5.8719e-10*nmos_10p0_asym_dcjd' mjswgs=0.01 mjswgd=0.21757 pbs=0.606 pbd=0.43905 pbsws=0.48 pbswd=0.48991 pbswgs=0.48 pbswgd=0.48991 tnom=25 ute=-1.3028 lute=0.045577 pute=0.17695 kt1=-0.42425 wkt1=0 pkt1=0 kt1l=-1.8892e-8 kt2=-0.060553 pkt2=-0.09625 ua1=3.2446e-9 lua1=0 pua1=0 ub1=-4.2148e-18 lub1=0 pub1=0 uc1=-7.2993e-11 at=3.3e4 lat=0 pat=-9e3 prt=200 pprt=0 njs=1.0541 njd=1 xtis=3 xtid=3 tpb=2.11e-3 tpbsw=1.9e-3 tpbswg=1.9e-3 tcj=1.65e-3 tcjsw=1.61e-3 tcjswg=1.61e-3
.ends nmos_10p0_asym
.endl nmos_10p0_asym_t

.lib pmos_10p0_asym_t
.subckt pmos_10p0_asym d g s b w=2.5e-5 l=6e-7 dtemp=0 nf=1 ad='(w*1.78e-6)' pd='2*(w+1.78e-6)' as='w*0.48e-6' ps='(w+0.48e-6)*2' nrd=0 nrs=0 sa=0 sb=0 sd=0 par=1
.param rdrift=5.751e-3
.param rd=0.94645
.param ra=1.1954e-3
.param rb=1.5957
.param lb=6.78e-6
.param wa=-6.5504e-7
.param wb=4.1955e-8
.param trx1=2.836e-3
.param trx2=7.4236e-6
.param trd1=-3.7522e-3
.param cgdl_d2=4.3795e-10
.param toxep=1.568e-8
.param lcgd_d2=6.4774e-10
.param cgdv_d=1.0253
.param cgd_val=0.20473
.param cgsl_s=1.2929e-11
.param lcgs=6.4247e-9
.param cgs_slope=0.81706
.param cgs_vth=0.021224
.param cgs_factor=0.9
.param vthd=4.18986e-2
.param cgd_vthd=0.31232
.param cgb_slope=1.0219
.param cgb_vth=0.89948
.param cgb_amp=9.9049e-10
.param cgb_min=3.2564e-11
.param cgb_power=2.5552
.param lcgd_d=1.4497e-7
.param polar_d=-4.1926e-4
.param polard_min=7.05
.param polar_s=-0.35192
.param polars_min=4.2
.param cgs_factor2=1
.param cgdv_d2=-1.2197
.param cgdl_d=1.6046e-11
.param cgs_vth1=0.13041
.param cgds_fixed='3.9*8.854e-12/toxep'
rd1 d d2 '(rdrift*pmos_10p0_asym_drdrift)/(w/nf-wa)' tc1=trx1 tc2=trx2 m=nf
rd2 d2 d1 'max(0.1,(rd*pmos_10p0_asym_drdsw*(1+trd1*(temper+dtemp-25))/(w/nf-wb)*(tanh(ra*(v(s,d)-rb*(l-lb)/(0.6e-6-lb))))))' m=nf
m0 d1 g s b pmos_10p0_asym_core w=w l=l dtemp=0 ad=ad pd=pd as=as ps=ps nf=nf nrd=nrd nrs=nrs sa=sa sb=sb sd=sd
c1_gd g d c='pmos_10p0_asym_dcgd*(cgds_fixed*w*lcgd_d+exp(polar_d*min(max(-v(d,s)-vthd,0),polard_min))*cgdl_d*w*(1+tanh(cgdv_d/(1+cgd_val*max(-v(d,g),0))*(-v(g,d1)+cgd_vthd*(1+cgdv_d2*-v(d,d1))-pmos_10p0_asym_dvth0))))'
c1_gd2 g d1 c='pmos_10p0_asym_dcgd*(cgds_fixed*w*lcgd_d2+cgdl_d2*w*(1+tanh(cgdv_d/(1+cgd_val*max(-v(d,g),0))*(-v(g,d1)+cgd_vthd*(1+cgdv_d2*-v(d,d1))-pmos_10p0_asym_dvth0))))'
c2_gs g s c='pmos_10p0_asym_dcgs*(cgds_fixed*w*lcgs+cgsl_s*w*(1-tanh(cgs_slope*(-v(s,g)+cgs_vth)))*(1+cgs_factor/(1+cgs_factor2*exp(v(g,d1)-cgs_vth1))*(1-exp(polar_s*min(max(-v(d1,s)-vthd,0),polars_min)))))'
c3_gb g b '(cgb_min+cgb_amp/(1+(1/pow(max(1e-3,cgb_slope*(-v(b,g)-cgb_vth+pmos_10p0_asym_dvth0)),cgb_power))))*w'
.model pmos_10p0_asym_core.1 pmos level=54 version=4.6 binunit=2 paramchk=1 mobmod=0 capmod=2 rdsmod=0 igcmod=0 igbmod=0 rbodymod=0 trnqsmod=0 acnqsmod=0 fnoimod=1 tnoimod=0 diomod=0 tempmod=0 permod=1 geomod=0 lmin=6e-7 lmax=20.01e-6 wmin=4e-6 wmax=50.01e-6 xl='0+pmos_10p0_asym_dxl' xw='0+pmos_10p0_asym_dxw' epsrox=3.9 toxe='1.568e-8+pmos_10p0_asym_dtox' xj=1.5e-7 ndep=1.7e17 ngate=1e20 nsd=1e20 rsh=5.6 rshg=0.4 phin=0.061992 wint=0 ww=0 wwl=0 lint=0 ll=0 lwl=0 dwg=1.0544e-8 dwb=0 vth0='-0.888+pmos_10p0_asym_dvth0' wvth0=0 pvth0=1.44e-14 vfb=-1 k1=1.09 k2=-0.014623 wk2=0 pk2=-9.04e-14 k3=5.4746 k3b=3.8727 w0=3.24e-6 lpe0=2.814e-7 llpe0=0 wlpe0=-3.5894e-13 plpe0=0 lpeb=3.068e-7 vbm=-3 dvtp0=0 dvtp1=0 dvt0=4.0503 wdvt0=0 pdvt0=-2.3525e-12 dvt1=0.16044 wdvt1=0 pdvt1=0 dvt2=-0.038473 dvt0w=0 dvt1w=2.7518e4 dvt2w=-0.032 u0='0.013723*pmos_10p0_asym_du0' lu0='2.7385e-9*pmos_10p0_asym_du0' wu0='-7e-10*pmos_10p0_asym_du0' pu0='-2e-15*pmos_10p0_asym_du0' ua=1.26e-9 lua=1.2893e-16 pua=6.315e-22 ub=7.2608e-19 lub=0 uc=-4.5217e-11 luc=5.88e-17 eu=1.67 vsat='71505*pmos_10p0_asym_dvsat' wvsat=0 pvsat=0 a0=1.1348 la0=-3.8459e-7 ags=0.0834 lags=0 wags=6.5664e-9 pags=6.4229e-13 b0=0 b1=0 keta=-1.504e-3 lketa=-2.0415e-8 wketa=2.68e-008 pketa=-7.5094e-014 a1=-0.07052 a2=1 rdsw='200*pmos_10p0_asym_drdsw' rdswmin=0 rdw=100 rdwmin=0 rsw=100 rswmin=0 prwb=1.24 prwg=1 wr=1 voff=-0.08768 voffl=0 minv=0 nfactor=1.096 eta0=0.08 etab=-0.57865 dsub=0.56 cit=0 cdsc=4.248e-4 cdscb=6e-5 cdscd=0 pclm=0.37315 pdiblc1=0.09466 pdiblc2=5.586e-8 pdiblcb=0 drout=0.56 pscbe1=5.9843e8 pscbe2=9.3757e-8 pvag=1.2 delta=0.01 fprout=0 pdits=0 pditsl=0 pditsd=0 alpha0=7.0634e-8 alpha1=0.14712 beta0=66.68 lbeta0=-2.1875e-6 wbeta0=4.86e-6 pbeta0=0 aigbacc=0.43 bigbacc=0.054 cigbacc=0.075 nigbacc=1 aigbinv=0.35 bigbinv=0.03 cigbinv=6e-3 eigbinv=1.1 nigbinv=3 aigc=0.43 bigc=0.054 cigc=0.075 aigsd=0.43 bigsd=0.054 cigsd=0.075 nigc=1 poxedge=1 pigcd=1 ntox=1 agidl=3.7498e-17 bgidl=1.196e8 cgidl=0.5 egidl=0.8 noia='pmos_10p0_asym_noia' noib='pmos_10p0_asym_noib' noic='pmos_10p0_asym_noic' em=4.1e7 ef=1.1237 cgso=0 cgdo=0 cgbo=0 ckappas=0.6 ckappad=0.6 clc=1e-7 cle=0.6 dlc=5.0579e-8 vfbcv=-1 noff=1.8144 lnoff=1.2657e-6 voffcv=-3.8635e-3 acde=1 moin=11.1 cgsl=0 cgdl=0 xjbvs=1 xjbvd=1 bvs=10.5 bvd=14.5 jss=2.0867e-7 jsd=5.2139e-7 jsws=1.6088e-13 jswd=1.5e-13 jswgs=1.6088e-13 jswgd=1.5e-13 jtsd=1.0891e-6 xtsd=0.92538 vtsd=2.44 cjs='9.12e-4*pmos_10p0_asym_dcjs' cjd='3.2124e-4*pmos_10p0_asym_dcjd' mjs=0.32713 mjd=0.31113 mjsws=0.056777 mjswd=0.39816 cjsws='1.4649e-10*pmos_10p0_asym_dcjs' cjswd='5.4659e-10*pmos_10p0_asym_dcjd' cjswgs='1.4649e-10*pmos_10p0_asym_dcjs' cjswgd='5.4659e-10*pmos_10p0_asym_dcjd' mjswgs=0.056777 mjswgd=0.39816 pbs=0.76836 pbd=0.63391 pbsws=0.5 pbswd=0.77752 pbswgs=0.5 pbswgd=0.77752 ute=-1.245 lute=-1.1751e-7 wute=-4e-8 pute=1.0911e-13 kt1=-0.45028 wkt1=0 pkt1=0 kt1l=-4.1552e-8 kt2=-0.05137 pkt2=-1.1e-13 ua1=5e-10 lua1=0 ub1=-2.2324e-18 lub1=-2.0019e-25 uc1=-3.0912e-11 luc1=0 at=3.96e3 prt=0
.ends pmos_10p0_asym
.endl pmos_10p0_asym_t
